US04465869
Into a round bottom flask having a capacity of 500 ml and equipped with a reflux condenser, a thermometer, a dropping funnel, a nitrogen gas supply tube, and a stirring means, 81.2 g (1.4 moles) of acetone, and 2.0 g (0.014 mole) of boron trifluoride etharate were charged and stirred while supplying a nitrogen gas. Then, 64.9 g (0.2 mole) of oleyl glycidyl ether was gradually added dropwise while supplying a nitrogen gas. The reaction mixture generates heat as the glycidyl ether is added. Therefore, the reaction mixture was cooled to maintain a temperature of from 20° to 30° C., and it took about one hour for the addition of the glycidyl ether. The stirring was continued for further one hour. After confirming by the gas chromatograph of the reaction mixture that the glycidyl ether completely disappeared, the reaction mixture was poured into a dilute aqueous solution of sodium bicarbonate whereby the acid was neutralized. Ether was added thereto and the mixture was stirred, and thereafter the ether layer was collected by separation. Anhydrous sodium sulfate was added for dehydration, and the solvent was removed by distillation under a reduced pressure thereby to obtain 68.8 g (yield: 90%) of colourless, transparent 2,2-dimethyl-4-oleyloxymethyl- 1,3-dioxolan.

reactant | acetone | 1.4 moles, 81.2 g | CC(=O)C | C3H6O
reactant | boron trifluoride | 0.014 mole, 2.0 g | B(F)(F)F | BF3
reactant | oleyl glycidyl ether | 0.2 mole, 64.9 g | C(C1CO1)OCCCCCCCC\C=C/CCCCCCCC | C21H40O2
reactant | glycidyl ether | C(C1CO1)OCC1CO1 | C6H10O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | Ether | CCOCC | C4H10O
product | 2,2-dimethyl-4-oleyloxymethyl- 1,3-dioxolan | yield: 90% | CC1(OCC(O1)COCCCCCCCC\C=C/CCCCCCCC)C | C24H46O3
